US04327092
4-(1,3-Dioxolan-2-yl)-2-phenylthiophene
A solution of 5-bromo-3-thiophenecarboxaldehyde (32.5 g) in benzene (500 ml) was treated with p-toluenesulphonic acid monohydrate (0.323 g) and ethylene glycol (21.1 g), and the mixture heated under reflux in a Dean and Stark apparatus until the theoretical volume of water had been removed. After cooling the mixture was washed with water, (2 x) then brine, dried, filtered and concentrated, and the residue distilled (b.p. 96°-100° at 0.4 mm) to give the title compound as an oil (24 g).

reactant | 5-bromo-3-thiophenecarboxaldehyde | 32.5 g | BrC1=CC(=CS1)C=O | C5H3BrOS
reactant | ethylene glycol | 21.1 g | C(CO)O | C2H6O2
reactant | water | O | H2O
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulphonic acid monohydrate | 0.323 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-(1,3-Dioxolan-2-yl)-2-phenylthiophene | 24 g | O1C(OCC1)C=1C=C(SC1)C1=CC=CC=C1 | C13H12O2S
